### PR TITLE
[Merged by Bors] - feat(Analysis/Calculus/ImplicitFunction): define implicitFunctionOfBivariate

### PR DESCRIPTION
**Pull request by agjftucker**
Introduce a further specialization of the implicit function theorem; one which applies to a curried bivariate function.

---

- [x] depends on: #26985

This is in large part a response to sgouezel's review comment on #16743

> The real question is whether it's best to formulate the result for curried or uncurried function. My bet is that curried would be better since most functions on products in fact come in curried form, but since you've already written fully the uncurried version (and a todo saying that it would be good having the curried version as well), let's keep it like that for now.

#26985 reviewed by j-loreaux and later on by winstonyin.
#16743 and #26300 reviewed by sgouezel.
[Zulip chat](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Inverse.20function.20theorem.20and.20ContinuousLinearEquiv/with/567586606) with Yury Kudryashov.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Calculus/FDeriv/Partial.lean [hunk 1]
```diff
@@ -0,0 +1,96 @@
...
+  [NormedAddCommGroup E₂] [NormedSpace 𝕜 E₂] [NormedAddCommGroup F] [NormedSpace 𝕜 F]
+
+/-- If bivariate `f : E₁ → E₂ → F` has partial derivatives `f₁` and `f₂` in a neighbourhood of
+`u : E₁ × E₂` and if they are continuous there then the uncurried function `↿f` is strictly
+differentiable at `u` with its derivative mapping `z` to `f₁ u.1 u.2 z.1 + f₂ u.1 u.2 z.2`. -/
+public theorem hasStrictFDerivAt_uncurry_coprod
+    [IsRCLikeNormedField 𝕜] {u : E₁ × E₂} {f : E₁ → E₂ → F} {f₁ : E₁ → E₂ → E₁ →L[𝕜] F}
+    {f₂ : E₁ → E₂ → E₂ →L[𝕜] F} (df₁ : ∀ᶠ v in 𝓝 u, HasFDerivAt (f · v.2) (↿f₁ v) v.1)
+    (df₂ : ∀ᶠ v in 𝓝 u, HasFDerivAt (f v.1 ·) (↿f₂ v) v.2) (cf₁ : ContinuousAt ↿f₁ u)
+    (cf₂ : ContinuousAt ↿f₂ u) : HasStrictFDerivAt ↿f ((↿f₁ u).coprod (↿f₂ u)) u := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/Calculus/FDeriv/Partial.lean:62]: I seem to recall @urkud proving this (or something related) semi-recently, but I can't seem to find it. Am I wrong Yury?

File: Mathlib/Analysis/Calculus/ImplicitFunction/ContDiff.lean
Comment (j-loreaux) [inline Mathlib/Analysis/Calculus/ImplicitFunction/ContDiff.lean:1]: I would revert all the changes in this file. At best they are just noise.

File: Mathlib/Analysis/Calculus/FDeriv/Partial.lean [hunk 2]
```diff
@@ -0,0 +1,96 @@
...
+
+theorem isLittleO_sub_sub_fderiv
+    {α 𝕜 E F : Type*} [NontriviallyNormedField 𝕜] [IsRCLikeNormedField 𝕜] [NormedAddCommGroup E]
+    [NormedSpace ℝ E] [NormedSpace 𝕜 E] [NormedAddCommGroup F] [NormedSpace 𝕜 F]
+    {u : E} {v w : α → E} {l : Filter α} (hv : Tendsto v l (𝓝 u)) (hw : Tendsto w l (𝓝 u))
+    (s : Set E := Set.univ) (seg : ∀ᶠ χ in l, [w χ -[ℝ] v χ] ⊆ s := by simp)
+    {f : α → E → F} {f' : α → E → E →L[𝕜] F}
+    (df' : ∀ᶠ p in l ×ˢ 𝓝[s] u, HasFDerivWithinAt (f p.1) (f' p.1 p.2) s p.2)
+    {φ : E →L[𝕜] F} (cf' : Tendsto ↿f' (l ×ˢ 𝓝[s] u) (𝓝 φ)) :
+    (fun χ => f χ (v χ) - f χ (w χ) - φ (v χ - w χ)) =o[l] (fun χ => v χ - w χ) := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/Calculus/FDeriv/Partial.lean:39]: This lemma should have a docstring. I realize it's private, but that's no reason to make things obscure.

**Review by j-loreaux — COMMENTED** [review]
Thanks! Maybe Yury will tell us if we can find this key result elsewhere in the library.

File: Mathlib/Analysis/Calculus/ImplicitFunction/ContDiff.lean
Comment (agjftucker) [reply Mathlib/Analysis/Calculus/ImplicitFunction/ContDiff.lean:1]: Well winstonyin asked me to move ImplicitContDiff.lean to the new folder. Then I altered some comments to be more uniform across the folder (all on lines I already had to touch in #26985). But I’m happy to do just the first, or neither!

**Comment by mcdoll** [comment]
I loogled `ContinuousLinearMap.coprod` and variations of `HasFDerivAt` and nothing came up, so I think it does not exist (I needed something similar and wrote it myself). It would be great expanding that file to cover all the usual cases `HasFDeriv` and `fderiv` and versions with `deriv`, but not in this PR.

**Comment by agjftucker** [comment]
> I loogled `ContinuousLinearMap.coprod` and variations of `HasFDerivAt` and nothing came up, so I think it does not exist (I needed something similar and wrote it myself). It would be great expanding that file to cover all the usual cases `HasFDeriv` and `fderiv` and versions with `deriv`, but not in this PR.

Hi thanks for the comment @mcdoll. For other cases please see #26300 by @igorkhavkine . He also concluded that they didn't exist in Mathlib and that he should write them himself. The initial design of `Partial.lean` in this PR is intended to serve as a foundation for the work of us both. I first brought up the question of this theorem on Zulip in [August 2024](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Partial.20derivatives/near/465977754) and my discussion with @igorkhavkine from [May 2025](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Partial.20derivatives/near/520995477) is in the same thread. Certainly at neither of those points did anybody weigh in with information about things already in Mathlib.

**Comment by sgouezel** [comment]
bors r+
Thanks!
